US07741351B2
N-[5-(3-cyanophenyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide
The title compound was prepared from N-(5-iodo-2,3-dihydro-1H-inden-2-yl)-2-propanesulfonamide and 3-cyanophenyl boronic acid in a similar manner to Example 1.

reactant | N-(5-iodo-2,3-dihydro-1H-inden-2-yl)-2-propanesulfonamide | IC=1C=C2CC(CC2=CC1)NS(=O)(=O)C(C)C | C12H16INO2S
reactant | 3-cyanophenyl boronic acid | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | N-[5-(3-cyanophenyl)-2,3-dihydro-1H-inden-2-yl]-2-propanesulfonamide | C(#N)C=1C=C(C=CC1)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C(C)C | C19H20N2O2S
